US04728747
2-(1-Ethoxycarbonylpropan-2-yl)-3-(2-methyl-1-propyl)-bicyclo[2.2.1]heptane
A solution of 60 g (0.22 mole) of 2-(1-ethoxycarbonylprop-1-en-2-yl)-3-(2-methylprop-1-en-1-yl)-bicyclo[2.2.1]heptane in 100 ml of ethyl acetate was stirred together with 1.6 g of palladium on alumina (0.5% strength) at 90° C. in a hydrogen atmosphere under 150 bar until the pressure remained constant for 5 hours.

reactant | 2-(1-ethoxycarbonylprop-1-en-2-yl)-3-(2-methylprop-1-en-1-yl)-bicyclo[2.2.1]heptane | 0.22 mole, 60 g | C(C)OC(=O)C=C(C)C1C2CCC(C1C=C(C)C)C2 | C17H26O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on alumina | 1.6 g | [Pd] | Pd
product | 2-(1-Ethoxycarbonylpropan-2-yl)-3-(2-methyl-1-propyl)-bicyclo[2.2.1]heptane | C(C)OC(=O)CC(C)C1C2CCC(C1CC(C)C)C2 | C17H30O2
